US05824687
1. 1-Benzyl-8-benzyloxy-2,3-dimethylimidazo[1,2-a]pyridinium bromide
A solution of 2 g of 8-benzyloxy-2,3-dimethylimidazo-[1,2-a]pyridine at 50° C., dissolved in 40 ml of anhydrous acetone, is treated with 2.7 g of benzyl bromide and then heated under reflux for 16 h. The precipitate produced in this process is filtered- off and washed with cold acetone. 3.5 g of the title compound of m.p. 190°-192° C. are obtained.

reactant | 8-benzyloxy-2,3-dimethylimidazo-[1,2-a]pyridine | 2 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C)C | C16H16N2O
reactant | benzyl bromide | 2.7 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | 1-Benzyl-8-benzyloxy-2,3-dimethylimidazo[1,2-a]pyridinium bromide | 3.5 g | [Br-].C(C1=CC=CC=C1)[N+]=1C(=C(N2C1C(=CC=C2)OCC2=CC=CC=C2)C)C | InChI=1S/C23H23N2O.BrH/c1-18-19(2)25(16-20-10-5-3-6-11-20)23-22(14-9-15-24(18)23)26-17-21-12-7-4-8-13-21;/h3-15H,16-17H2,1-2H3;1H/q+1;/p-1
